US07759373B2
A mixture of 5-amino-2-(4-fluorophenyl)-4-phenylimidazole (1.00 g) and ethyl formate (10 ml) was refluxed for 15 hours. After cooling, the reaction mixture was concentrated under reduced pressure and crystallized from diethyl ether to obtain 5-formylamino-2-(4-fluorophenyl)-4-phenylimidazole (1.17 g) as colorless crystal.

reactant | 5-amino-2-(4-fluorophenyl)-4-phenylimidazole | 1.00 g | NC1=C(N=C(N1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C15H12FN3
reactant | ethyl formate | 10 ml | C(=O)OCC | C3H6O2
product | 5-formylamino-2-(4-fluorophenyl)-4-phenylimidazole | 1.17 g | C(=O)NC1=C(N=C(N1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C16H12FN3O
